US07842688B2
c) tert-Butyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate
Analogously to Method I, 0.750 g of tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate and 0.812 g of 2-(3-bromopropoxy)-1,4-difluorobenzene are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.35 (1:1 EtOAc-heptane); Rt=5.14.

reactant | tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 0.750 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C16H23NO4
reactant | 2-(3-bromopropoxy)-1,4-difluorobenzene | 0.812 g | BrCCCOC1=C(C=CC(=C1)F)F | C9H9BrF2O
product | tert-Butyl 4-{4-[3-(2,5-difluorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate | FC1=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)O)C=C(C=C1)F | C25H31F2NO5
